US07572820B2
C. 4-(Trifluoromethyl)-1H-indole-5-carbonitrile
An NMP solution (15 mL) of N-{4-chloro-3-(trifluoromethyl)-2-[(trimethylsilyl)ethynyl]phenyl}-2,2-dimethylpropanamide (1.04 g, 2.77 mmol) was treated with CuCN (1.04 g, 11.01 mmol) and the resulting mixture was heated at 250° C. in a microwave for 5.5 h. The dark brown reaction mixture was poured into crushed ice (250 mL) containing conc. ammonium hydroxide (30 mL). The resulting slurry was filtered and rinsed with Et2O. The filtrate was diluted with Et2O (50 mL) and partitioned. The aqueous portion was extracted with Et2O (2×25 mL). The combined organic portions were washed with H2O (25 mL) and brine (25 mL). Drying (Na2SO4) and filtration were followed by concentration to a brown/yellow solid (0.723 g) that was used for the next reaction without further purification.

reactant | N-{4-chloro-3-(trifluoromethyl)-2-[(trimethylsilyl)ethynyl]phenyl}-2,2-dimethylpropanamide | 2.77 mmol, 1.04 g | ClC1=C(C(=C(C=C1)NC(C(C)(C)C)=O)C#C[Si](C)(C)C)C(F)(F)F | C17H21ClF3NOSi
reactant | CuCN | 11.01 mmol, 1.04 g | C(#N)[Cu]
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | 4-(Trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
